US05403816
Preparation of methyl 3-hydroxy-6-(1-pyrrolidinyl)picolinate (Intermediate No. 11)
6.10 g (19.5 mmol) of methyl 3-benzyloxy-6-(1-pyrrolidinyl)picolinate was catalytically reduced in 50 ml of methanol and 100 ml of 1,2-dimethoxyethane in the presence of 1.5 g of 10% palladium carbon. The catalyst was filtered off, and the solvent was distilled off, and the residue was crystallized from diisopropyl ether-n-hexane to obtain the desired product.

reactant | methyl 3-benzyloxy-6-(1-pyrrolidinyl)picolinate | 19.5 mmol, 6.10 g | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)N1CCCC1)C(=O)OC | C18H20N2O3
reactant | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium carbon | 1.5 g | [C].[Pd]
product | methyl 3-hydroxy-6-(1-pyrrolidinyl)picolinate | yield: 100% | OC=1C(=NC(=CC1)N1CCCC1)C(=O)OC | C11H14N2O3
